US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A suspension of 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (400 mg) in dry DME (50 ml) was treated with sodium hydride (60% dispersion in oil; 100 mg), and the mixture was stirred at 60° under nitrogen for 6 h. 4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole (474 mg) was added and the reaction mixture was stirred at 60° under nitrogen overnight. 2N Hydrochloric acid (10 ml) and water (10 ml) were then added, and the mixture was heated at reflux for 6 h. After cooling, the mixture was basified with 2N sodium hydroxide and the resulting mixture was extracted with ethyl acetate (2×50 ml). The combined, dried organic extracts were concentrated onto FCC silica and purified by FCC eluting with System A (150:8:1) to give the title compound (352 mg) as a solid, t.l.c. (System A, 100:8:1) Rf 0.28. 1H-N.m.r.: δ2.2 (3H,s), 3.04 (2H,t), 3.62 (2H,t), 3.72 (3H,s), 4.53 (2H,s), 7.1-7.28 (2H,m), 7.43 (1H,s), 7.47-7.55 (1H,dd), 7.94-8.03 (1H,dd).

reactant | 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 400 mg | CN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C12H12N2O
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole | 474 mg | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | Hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | DME | 50 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 352 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
